US06211234B1
Benzyl 2-benzyloxy-4-iodobenzoate (7.6 g) is added to triethylamine (120 mL) followed by phenylacetylene (2.94 g) then tetrakis(triphenylphosphine)palladium(0) (0.664 g) and copper (I) bromide (0.248 g). The resulting mixture is stirred at room temperature for 3 hours. The triethylamine is distilled off and the residue partitioned between ether (600 mL) and saturated aqueous ammonium chloride solution. The organic phase is dried over magnesium sulphate and evaporated. The residue is purified by flash chromatography on silica eluting with a mixture of pentane and ethyl acetate (5:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give benzyl 2-benzyloxy-4-phenylethynyl-benzoate (2 g) as a cream solid, m.p. 98-100° C.

reactant | Benzyl 2-benzyloxy-4-iodobenzoate | 7.6 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)I | C21H17IO3
reactant | phenylacetylene | 2.94 g | C1(=CC=CC=C1)C#C | C8H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.664 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) bromide | 0.248 g | [Cu]Br
solvent | triethylamine | 120 mL | C(C)N(CC)CC | C6H15N
product | benzyl 2-benzyloxy-4-phenylethynyl-benzoate | 2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)C#CC1=CC=CC=C1 | C29H22O3
